US07323474B2
Under a N2 atmosphere, 2.04 g (5.17 mmol) of an (E/Z) mixture of 2-iodo-benzoic acid-[3-(6-methoxy-pyridin-3-yl)-allylamide], 1.53 g (5.17 mmol) of tetra-butylammonium chloride and 22 mg (0.1 mmol) of palladium diacetate are dissolved in 80 ml of DMF, then 1.8 ml (12.9 mmol) of trethylamine are added and stirring effected for 2 days at 110° C. Filtration is carried out, and the DMF is partially evaporated on a RE. The residue is dissolved with EtOAc and diluted Na2CO3 solution, the water phase separated and extraction effected twice more with EtOAc. The organic phases are washed twice with water and brine, dried (Na2SO4) and concentrated by evaporation. Column chromatography (SiO2, methylene chloride/acetone 3:1), concentration by evaporation and stirring in petroleum ether yield 4-[(6-methoxy-pyridin-3-yl)-methyl]-2H-isoquinolin-1-one; m.p. 191° C.; HPLC(gradient20-100) tRef=13.0.

reactant | 2-iodo-benzoic acid-[3-(6-methoxy-pyridin-3-yl)-allylamide] | COC1=CC=C(C=N1)C=CCNC(C1=C(C=CC=C1)I)=O | C16H15IN2O2
catalyst | tetra-butylammonium chloride | 5.17 mmol, 1.53 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
catalyst | palladium diacetate | 0.1 mmol, 22 mg | C(C)(=O)[O-].C(C)(=O)[O-].[Pd+2]
product | 4-[(6-methoxy-pyridin-3-yl)-methyl]-2H-isoquinolin-1-one | COC1=CC=C(C=N1)CC1=CNC(C2=CC=CC=C12)=O | C16H14N2O2
